datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:66]=[CH:67]1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[Si+:11](C)[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:66]=[CH:67]1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([H:10])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C[C:11]1=[CH:10]CCCC1>>C[C+:11]1CCCC[CH:10]1[CH:20]([CH:21]=[CH:22][N:23]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([N+:61]2=[C-:10][N:71](C3=CC=CC=C3)[C:63](C3=CC=CC=C3)=[N:62]2)C=C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10]2=[N+:61](C3=CC=CC=C3)[N:62]=[C:63](C3=CC=CC=C3)[N:71]2C2=CC=CC=C2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CN1CC[C:20](=[O:21])CC1.CO[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([S:10][C:20]2([O-:21])CCN(C)CC2)[CH:72]=[CH:73]1 10=20;20,21=21"
"C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[N:72](C)[C:61]([S-:10])=[S:62]>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([S:10][C:61](=[S:62])[N:72](C)C)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C1CC[C:11](=[CH2:10])CC1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([CH2:10][C+:11]2CCCCC2)[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1 10,11=10,20"
"C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[CH:20](C2=CC=CC=C2)C2C(C3=CC=CC=C3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1 10,11=10,20;12=11,12;20,21=21"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[CH-:10]([C:61]#[N:62])[C:71]#[N:72]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([C:61]#[N:62])[C:71]#[N:72])[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1 10,11=10,20;20,21=21,22;22,23=23"
CC1=CC(C)=C(N2C(C3=CC=CC=C3)=N[N+](C3=C(C)C=C(C)C=C3C)=C2/[C:61]([O-:10])=[C:62](\C)C2=CC=CC=C2)C(C)=C1.C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C(N2C(C3=CC=CC=C3)=N[N+](C3=C(C)C=C(C)C=C3C)=C2/[C:61]([O:10][CH:20]([C:31]2=[CH:32][C:33](F)=[C:34](C)[CH:35]=[CH:36]2)[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)=[C:62](\C)C2=CC=CC=C2)C(C)=C1 10=20
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([C:10](C1=CC=CC=C1)([C:11](=[O:12])[C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:82])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:61]([C:10](=[C:11]=[N-:12])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]([C:11]#[N:12])([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
